datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],59.7475
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([H:11])[H:12]>>[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:5])([H:6])[C:10]([H:4])([H:11])[H:12],-4.912016
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[C:20]([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][C:20]([H:21])([H:22])[H:23],22.92832
[C:0]1([H:3])([H:4])[C:1]([H:5])([H:6])[O:2]1.[O:7][O:8][H:9]>>[C:0]1([H:4])[C:1]([H:5])([H:6])[O:2]1.[H:3][O:7][O:8][H:9],127.31912
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:21]([C:20]([H:24])([H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:10])([H:8])[H:9],17.9912
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6].[H:4][C:12]([H:13])([H:14])[H:15],31.5055
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([S:11][H:14])([H:12])[H:13]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:10]([S:11][H:14])([H:12])[H:13],35.4385
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]1([H:13])([H:14])[C:7]([H:15])([H:16])[C:8]2([H:17])[C:9]([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]1([H:22])[C:12]2([H:23])[H:24]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:23])[H:3].[C:6]1([H:13])([H:14])[C:7]([H:15])([H:16])[C:8]2([H:17])[C:9]([H:18])([H:19])[C:10]([H:20])([H:21])[C:11]1([H:22])[C:12]2[H:24],62.3416
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16]>>[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1[H:16].[H:15],322.602
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18],54.2748
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:15]([C:14]([H:22])([H:23])[H:24])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],18.7025
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[O:4][H:14])([H:5])([H:6])[H:7].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[O:4][C:15]([H:16])([H:17])[H:18])([H:5])([H:6])[H:7].[H:14],190.768
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11])[H:9])[H:8])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])[C:5]1([H:13])[H:14],99.4118
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[C:10]([O:11][O:12])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][O:12][O:11][C:10]([H:13])([H:14])[H:15],85.60464
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([C:9]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]=[C:6]([H:10])[H:11])([C:9]([H:13])([H:14])[H:15])[H:12])[H:3],47.6558
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29])([H:9])[H:10],14.7277
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])[C:8]1([C:9]([H:24])([H:25])[H:26])[H:23])[H:12])([H:10])[H:11],72.2577
